US04371536
1.81 g of 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester is suspended in 15 ml of ethylene glycol and, while cooling with ice, methylamine is introduced until saturation point is reached. The mixture is then stirred at room temperature for 16 hours, stirred into 100 ml of ice water and the product is filtered off, dried and recrystallized from ethanol-chloroform. 1.42 g of 6-amino-4-methyl-β-carbolin-3-carboxylic acid N-methylamide of melting point 281°-285° C. is obtained.

reactant | 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 1.81 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N | C15H15N3O2
reactant | methylamine | CN | CH5N
solvent | ethylene glycol | 15 ml | C(CO)O | C2H6O2
product | 6-amino-4-methyl-β-carbolin-3-carboxylic acid N-methylamide | 1.42 g | CNC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N | C14H14N4O
